US07435815B2
2-(4-tert-Butyl-benzenesulfonylamino)-benzamide
prepared by reaction of 2-amino-benzamide with 4-tert-butyl-benzenesulfonyl chloride

reactant | 2-amino-benzamide | NC1=C(C(=O)N)C=CC=C1 | C7H8N2O
reactant | 4-tert-butyl-benzenesulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 2-(4-tert-Butyl-benzenesulfonylamino)-benzamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=O)N)C=CC=C1 | C17H20N2O3S
